US08349893B2
A solution of 8-(3,4-difluoro-benzyloxy)-octanoic acid (153 mg, 0.53 mmol), N,N-diisopropylethylamine (414 mg, 3.21 mmol), and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-hexaflurophophate (244 mg, 0.64 mmol) in N,N-dimethylformamide was stirred for 1 h at room temperature, then a solution of (R)-3-amino-4-dimethylamino-butyric acid benzyl ester dihydrochloride (198 mg, 0.64 mmol) in N,N-dimethylformamide (1 mL) was added. The reaction mixture was stirred for 16 h at room temperature, then evaporated. Chromatography (SiO2, dichloromethane-[dichloromethane/methanol/25% aq. ammonia solution 110:10:1] gradient) produced (R)-3-[8-(3,4-difluoro-benzyloxy)-octanoylamino]-4-dimethylamino-butyric acid benzyl ester (136 mg, 50%). Light yellow oil, m/e=505.4 ([M+H]+).

reactant | 8-(3,4-difluoro-benzyloxy)-octanoic acid | 0.53 mmol, 153 mg | FC=1C=C(COCCCCCCCC(=O)O)C=CC1F | C15H20F2O3
reactant | N,N-diisopropylethylamine | 3.21 mmol, 414 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (R)-3-amino-4-dimethylamino-butyric acid benzyl ester dihydrochloride | 0.64 mmol, 198 mg | Cl.Cl.C(C1=CC=CC=C1)OC(C[C@H](CN(C)C)N)=O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (R)-3-[8-(3,4-difluoro-benzyloxy)-octanoylamino]-4-dimethylamino-butyric acid benzyl ester | 136 mg, 50% | C(C1=CC=CC=C1)OC(C[C@H](CN(C)C)NC(CCCCCCCOCC1=CC(=C(C=C1)F)F)=O)=O | C28H38F2N2O4
